US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-cyclohexylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone were reacted with 2.6 g of 1-cyclohexyl-3-methylthiourea in the manner described in Example 23 and the colorless crystalline end product was filtered off. Melting point: 178° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-cyclohexyl-3-methylthiourea | 2.6 g | C1(CCCCC1)NC(=S)NC | C8H16N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-cyclohexylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1CCCCC1)C)O)S(N)(=O)=O | InChI=1S/C16H22ClN3O3S2.BrH/c1-20-15(19-12-5-3-2-4-6-12)24-10-16(20,21)11-7-8-13(17)14(9-11)25(18,22)23;/h7-9,12,21H,2-6,10H2,1H3,(H2,18,22,23);1H
